US03988339
7,8-Dichloro-1,2,3,4-tetrahydroisoquinoline hydrochloride (0.001 mole) was treated with sodium acetate (0.001 mole), acetic anhydride (0.00125 mole), and 2 ml. of acetic acid and the mixture was heated at 95° C. for 15 minutes. The mixture was cooled, dilutes with water, made alkaline with aqueous ammonia and extracted with chloroform. Concentration of the extract and recrystallization of the residue from isopropanol gave 2-acetyl-7,8-dichloro-1,2,3,4-tetrahydroisoquinoline, m.p. 99.5°-100° C.

reactant | 7,8-Dichloro-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.001 mole | Cl.ClC1=CC=C2CCNCC2=C1Cl
reactant | sodium acetate | 0.001 mole | C(C)(=O)[O-].[Na+]
reactant | acetic anhydride | 0.00125 mole | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonia | N | H3N
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-acetyl-7,8-dichloro-1,2,3,4-tetrahydroisoquinoline | C(C)(=O)N1CC2=C(C(=CC=C2CC1)Cl)Cl | C11H11Cl2NO
